US08012986B2
2-(3-Bromo-phenyl)-4-trifluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine
The title compound was prepared from 2-chloro-4-trifluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine (example A.2) (1.50 g, 4.38 mmol) and commercially available 3-bromo-benzene-boronic acid (1.01 g, 5.03 mmol) according to the general procedure IIb. Obtained as a white solid (1.15 g, 56%). MS (EI) 448.0, 450.0 [(M)+]; mp 160° C.

reactant | 2-chloro-4-trifluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine | 4.38 mmol, 1.50 g | ClC1=NC(=CC(=N1)C(F)(F)F)C=1C=NC(=CC1)C(F)(F)F | C11H4ClF6N3
reactant | 3-bromo-benzene-boronic acid | 5.03 mmol, 1.01 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-trifluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C(F)(F)F)C=1C=NC(=CC1)C(F)(F)F | C17H8BrF6N3
